US06395733B1
4-(3-Ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic Acid
To 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (0.38 g, 1.9 mmol) in dry methanol (4ml) was added m-aminophenyl acetylene (0.47 g, 4.0 mmol). The suspension was heated in a sealed pressure tube at 125° C. for 18 hours. The reaction mixture was cooled to ambient temperature, filtered with methylene chloride washes and dried in vacuo to afford the title compound as a tan powder (0.30 g, 54%). TS-MS: 278 (MH+); anal. RP18-HPLC RT: min.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 1.9 mmol, 0.38 g | ClC=1C2=C(N=CN1)NC=C2C(=O)O | C7H4ClN3O2
reactant | m-aminophenyl acetylene | 4.0 mmol, 0.47 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | methanol | 4ml | CO | CH4O
product | 4-(3-Ethynyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic Acid | 0.30 g, 54% | C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C(=O)O | C15H10N4O2
